US04536505
A solution of hydroxylamine (from 2.06 g of hydroxylamine hydrochloride and 2.02 g of sodium hydroxide) and 7.6 g of 3-(4-methoxycarbonylbutyl)-N-(3-pyridyl)indole in 25 ml of methanol is allowed to stand at room temperature for 20 hours. The methanol is evaporated and the residue is taken up in 5 ml of water and adjusted to pH=7. The mixture is extracted with methylene chloride, the extract is washed with water, dried and evaporated to dryness yielding 3-[4-(hydroxycarbamoyl)butyl]-N-(3-pyridyl)indole.

reactant | hydroxylamine | 2.06 g | NO | H3NO
reactant | 3-(4-methoxycarbonylbutyl)-N-(3-pyridyl)indole | 7.6 g | COC(=O)CCCCC1=CN(C2=CC=CC=C12)C=1C=NC=CC1 | C19H20N2O2
solvent | methanol | 25 ml | CO | CH4O
product | 3-[4-(hydroxycarbamoyl)butyl]-N-(3-pyridyl)indole | ONC(=O)CCCCC1=CN(C2=CC=CC=C12)C=1C=NC=CC1 | C18H19N3O2
